US04024188
9.6 g of 6-hydroxy-1,6-dimethyl-4-methyl-2,3,3a,4,5,6,7,8 -octahydroazulene in 300 ml of absolute benzene were heated to reflux for 15 hours with 4.8 g of sodium hydride (50% paraffin-containing paste, purified by washing with benzene). Then 95 ml of freshly distilled dimethyl sulphate were added at 40°. The mixture was stirred at reflux for a further 7 hours, cooled to 5°, treated with 20% citric acid solution and extracted with ether. The ethereal phase was washed with bicarbonate solution and water, dried in a conventional manner and concentrated under reduced pressure. The oily residue so obtained (12.5 g) was loaded onto 125 g of silica gel and by elution with hexane there were obtained 7.65 g (74%) of 6-methoxy-1,6-dimethyl-4-methylen-2,3,3a,4,5,6,7,8-octahydroazulene which was then distilled in high vacuum; b.p.0.02 ca 55°; IR(film): νmax = 3090, 1640, 1450/40, 1370, 1252, 1120, 1080, 890, 835, 765/55 cm-1. The compound has a camphorous, woody odour.

reactant | 6-hydroxy-1,6-dimethyl-4-methyl-2,3,3a,4,5,6,7,8 -octahydroazulene | 9.6 g | OC1(CC(C2CCC(=C2CC1)C)C)C | C13H22O
reactant | sodium hydride | 4.8 g | [H-].[Na+]
reactant | dimethyl sulphate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 6-methoxy-1,6-dimethyl-4-methylen-2,3,3a,4,5,6,7,8-octahydroazulene | 7.65 g, 74% | COC1(CC(C2CCC(=C2CC1)C)=C)C | C14H22O
